US07645789B2
To a solution of methyl 1-(4-nitrophenyl)cyclopropanecarboxylate (20 g, 0.09 mol) in MeOH (400 mL) was added Ni (2 g) under nitrogen atmosphere. The mixture was stirred under hydrogen atmosphere (1 atm) at room temperature overnight. The catalyst was filtered off through a pad of Celite and the filtrate was evaporated under vacuum to give crude product, which was purified by chromatography column on silica gel (petroleum ether/ethyl acetate=10:1) to give methyl 1-(4-aminophenyl)cyclopropanecarboxylate (11.38 g, 66%). 1H NMR (300 MHz, CDCl3) δ7.16 (d, J=8.1 Hz, 2H), 6.86 (d, J=7.8 Hz, 2H), 4.31 (br, 2H), 3.61 (s, 3H), 1.55-1.50 (m, 2H), 1.30-1.12 (m, 2H).

reactant | methyl 1-(4-nitrophenyl)cyclopropanecarboxylate | 0.09 mol, 20 g | [N+](=O)([O-])C1=CC=C(C=C1)C1(CC1)C(=O)OC | C11H11NO4
solvent | MeOH | 400 mL | CO | CH4O
catalyst | Ni | 2 g | [Ni] | Ni
product | methyl 1-(4-aminophenyl)cyclopropanecarboxylate | 11.38 g, 66% | NC1=CC=C(C=C1)C1(CC1)C(=O)OC | C11H13NO2
